US05064946
3'-Azido-3-benzoyl-3'-deoxy-5'-mesylthymidine was prepared from 3'-azido-3'-deoxy-5'-mesylthymidine by an analogous method to that used in Example 40 to prepare 5'-acetyl-3'-azido-3-benzoyl-3'-deoxythymidine from 5'-acetyl-3'-azido-3'-deoxythymidine; m.p.=86°-88° C.

reactant | 3'-azido-3'-deoxy-5'-mesylthymidine | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1C(O)S(=O)(=O)C)N1C(=O)NC(=O)C(C)=C1 | C11H15N5O6S
reactant | 5'-acetyl-3'-azido-3-benzoyl-3'-deoxythymidine | C(C)(=O)C([C@@H]1[C@H](C[C@@H](O1)N1C(=O)N(C(=O)C(C)=C1)C(C1=CC=CC=C1)=O)N=[N+]=[N-])O | C19H19N5O6
reactant | 5'-acetyl-3'-azido-3'-deoxythymidine | C(C)(=O)C([C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)N=[N+]=[N-])O | C12H15N5O5
product | 3'-Azido-3-benzoyl-3'-deoxy-5'-mesylthymidine | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1C(O)S(=O)(=O)C)N1C(=O)N(C(=O)C(C)=C1)C(C1=CC=CC=C1)=O | C18H19N5O7S
